US07875636B2
To a suspension of 4-isopropylphenylacetic acid (0.356 g, 2.000 mmol), (1R)-1-(5-bromopyridin-2-yl)ethanamine hydrochloride (0.475 g, 2.000 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.383 g, 2.000 mmol), and 1-hydroxy-7-azabenzotriazole (0.272 g, 2.000 mmol) in 15.0 ml of CH2Cl2 was added slowly triethylamine (0.836 ml, 6.000 mmol). The resulting solution was stirred at room temperature for 3 hours. The reaction mixture was washed with saturated sodium bicarbonate solution and brine. Organics were extracted with CH2Cl2, dried over Na2SO4, filtered and concentrated in vacuo. Purification by normal phase chromatography (0-80% EtOAc/Hex) gave N-[(1R)-1-(5-bromopyridin-2-yl)ethyl]-2-(4-isopropylphenyl)acetamide as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.503 (d, J=2.20 Hz, 1H); 7.740 (dd, J=2.20 Hz, J=8.30 Hz, 1H); 7.207 (d, J=8.30 Hz, 2H); 7.182 (d, J=8.30 Hz, 2H); 7.102 (d, J=8.30 Hz, 1H); 6.591 (br d, J=7.08 Hz, 1H); 5.094 (dq, J=7.08 Hz, 1H); 3.571 (d, J=15.87 Hz, 1H); 3.536 (d, J=16.11 Hz, 1H); 2.907 (sept, J=6.83 Hz, 1H); 1.391 (d, J=6.59 Hz, 3H); 1.254 (d, J=6.83 Hz, 6H); MS (Electrospray): m/z 361.0 (M+H).

reactant | 4-isopropylphenylacetic acid | 2.000 mmol, 0.356 g | C(C)(C)C1=CC=C(C=C1)CC(=O)O | C11H14O2
reactant | (1R)-1-(5-bromopyridin-2-yl)ethanamine hydrochloride | 2.000 mmol, 0.475 g | Cl.BrC=1C=CC(=NC1)[C@@H](C)N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.000 mmol, 0.383 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 2.000 mmol, 0.272 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 6.000 mmol, 0.836 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15.0 ml | C(Cl)Cl | CH2Cl2
product | N-[(1R)-1-(5-bromopyridin-2-yl)ethyl]-2-(4-isopropylphenyl)acetamide | BrC=1C=CC(=NC1)[C@@H](C)NC(CC1=CC=C(C=C1)C(C)C)=O | C18H21BrN2O
